US03931239
A stirred suspension of 4,5-dimethyl-6-oxo-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid (14 g., 0.00486 mole) in acetic acid (15 ml.) is treated with a solution of bromine (0.8 g., 0.005 mole) in acetic acid (5 ml.) during a three minute period. The reaction mixture is poured into water (100 ml.) containing sodium bisulfate (1 g.), extracted with ether, washed with water, dried over magnesium sulfate and the ether distilled at reduced pressure affording an oil which on trituration with cyclohexane affords 4,5-dimethyl-6-oxo-7-bromo-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid (1.4 g., 78%) as a white solid which melts at 78°C. and is used in the next step without further purification.

reactant | 4,5-dimethyl-6-oxo-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.00486 mole, 14 g | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)CCC)=O)C | C17H20O4
reactant | bromine | 0.005 mole, 0.8 g | BrBr | Br2
reactant | water | 100 ml | O | H2O
reactant | sodium bisulfate | 1 g | S([O-])(O)(=O)=O.[Na+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | 4,5-dimethyl-6-oxo-7-bromo-7-propyl-1,2,7,8-tetrahydro-6H-indeno[5,4-b]furan-2-carboxylic acid | 1.4 g, 78% | CC1=C(C=2C(C(CC2C2=C1OC(C2)C(=O)O)(CCC)Br)=O)C | C17H19BrO4
